US07384961B2
11.1 g 2-[(benzylmethylamino)methyl]-1-pyridin-3-yl-cyclohexanol hydrochloride were dissolved in 110 ml glacial acetic acid under nitrogen, 2.0 g palladium-on-active charcoal (10 percent by weight) were added as a catalyst and the mixture was stirred under a hydrogen pressure of 2.0 bar until the uptake of hydrogen had ended. The mixture was filtered with suction, the filtrate was concentrated, the residue was stirred overnight with 75 ml isopropanol and the precipitate obtained was filtered off with suction and dried. 6.18 g 2-methylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride were obtained.

reactant | 2-[(benzylmethylamino)methyl]-1-pyridin-3-yl-cyclohexanol hydrochloride | 11.1 g | Cl.C(C1=CC=CC=C1)CNCC1C(CCCC1)(O)C=1C=NC=CC1
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 2.0 g | [Pd] | Pd
product | 2-methylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride | 6.18 g | Cl.CNCC1C(CCCC1)(O)C=1C=NC=CC1 | InChI=1S/C13H20N2O.ClH/c1-14-9-11-5-2-3-7-13(11,16)12-6-4-8-15-10-12;/h4,6,8,10-11,14,16H,2-3,5,7,9H2,1H3;1H
